* source UCC21710
R_R5         RDY VCC  5k TC=0,0 
C_C2         N16764291 VDD  10u  TC=0,0 
V_V2         IN+ 0  
+PULSE 0 5 0 5n 5n 1u 2u
R_R3         FLTB VCC  5k TC=0,0 
R_R14         0 APWM  1Meg TC=0,0 
V_V5         N16766688 0  
+PWL 0 5 45u 5 45.1u 5 48u 5 48.1u 5 
R_R10         N16768107 N16768051  33.3333 TC=0,0 
R_R12         N16768401 N16768175  3.3 TC=0,0 
V_V6         N16768051 0 600
R_R13         OUTH N16768175  3.3 TC=0,0 
C_C3         N16768175 0  10n  
C_C5         VCC 0  1u  
X_U1         RDY IN+ 0 OUTH N16768401 0 N16766688 AIN N16778695 N16768175 0 VCC
+  VDD N16764291 FLTB 0 UCC21710
R_R15         0 N16768175  10k TC=0,0 
X_M1         N16768107 N16768175 0 POWER_NMOS_P PARAMS: BVDSS=1200.0 IDSS=160U
+  VGS_TH=4.8 RDSON=0.005 GFS=44 CISS=14.5P COSS=0.4N CRSS=0.03N RG=1.9 VSD=3.3
+  QG=520N V_QG=10 TRR=45N
C_C6         APWM 0  1u  
R_R16         N16778695 APWM  100 TC=0,0 
V_V11         VDD 0 18
V_V12         0 N16764291 2
R_R17         0 N16782941  5k TC=0,0 
V_V13         VCC 0 5
R_R20         N16782941 AIN  10k TC=0,0 
