* source UCC21710
R_R5         RDY VCC  5k TC=0,0 
C_C2         0 VDD  10u  TC=0,0 
V_V2         IN+ 0  
+PULSE 0 3.3 0 5n 5n 8u 20u
R_R3         FLTB VCC  5k TC=0,0 
R_R14         0 APWM  1Meg TC=0,0 
V_V5         N16766688 0  
+PWL 0 3.3 45u 3.3 45.1u 3.3 48u 3.3 48.1u 3.3 
R_R10         N16768107 N167680730  33.3333 TC=0,0 
R_R12         N16768401 N16768175  10 TC=0,0 
V_V6         N16768055 0 600
R_R13         OUTH N16768175  10 TC=0,0 
C_C3         N16768175 0  1p  
C_C5         VCC 0  1u  
X_U1         RDY IN+ 0 OUTH N16768401 0 N16766688 AIN N16778695 N16768175 0 VCC
+  VDD N16764319 FLTB 0 UCC21710
R_R15         0 N16768175  10k TC=0,0 
X_M1         N16768107 N167759331 N167759330 POWER_NMOS_P PARAMS: BVDSS=1200.0
+  IDSS=38U VGS_TH=2.5 RDSON=0.0213 GFS=44 CISS=6.6N COSS=0.29N CRSS=0.019N
+  RG=2.4 VSD=5.5 QG=236N V_QG=10 TRR=20N
C_C6         APWM 0  1u  
R_R16         N16778695 APWM  100 TC=0,0 
V_V11         VDD 0 15
V_V12         0 N16764319 3.8
R_R17         0 N16782941  5k TC=0,0 
V_V13         VCC 0 5
R_R20         N16782941 AIN  10k TC=0,0 
C_C7         N16764319 0  10u  TC=0,0 
L_L1         N167680730 N16768055  10nH  
L_L2         0 N167759330  100nH  
L_L3         N16768175 N167759331  20nH  
